### PR TITLE
feat(ir): Add `OperationPtr.getParentRegion!`

### PR DESCRIPTION
**Pull request by math-fehr**
This is a simple definition to grab a parent region without having to first grab a parent block. It is purely an API to make things simpler, not faster.

### CODE REVIEW

**Review by luisacicolini — APPROVED** [review]

File: Veir/IR/Basic.lean [hunk 1]
```diff
@@ -2560,10 +2560,28 @@ end BlockOperandPtrPtr
 
 namespace OperationPtr
 
+/-- Return the region directly containing an operation, if one exists. -/
+def getParentRegion! (op : OperationPtr) (ctx : IRContext OpInfo) : Option RegionPtr := do
+  rlet block ← (op.get! ctx).parent
+  (block.get! ctx).parent
```
Comment (ineol) [inline Veir/IR/Basic.lean]:
```suggestion
  let block ← (op.get! ctx).parent
  (block.get! ctx).parent
```
I don't think we need to know anything inside the function?

File: Veir/IR/Basic.lean [hunk 2]
```diff
@@ -2560,10 +2560,28 @@ end BlockOperandPtrPtr
...
+    (op.get! ctx).parent = some block →
+    (block.get! ctx).parent = some region →
+    op.getParentRegion! ctx = some region := by
+  grind [OperationPtr.getParentRegion!]
+
 @[expose]
 def getParentOp! (op : OperationPtr) (ctx : IRContext OpInfo) : Option OperationPtr := do
-  rlet block ← (op.get! ctx).parent
-  rlet region ← (block.get! ctx).parent
+  rlet region ← op.getParentRegion! ctx
```
Comment (ineol) [inline Veir/IR/Basic.lean]: same?

File: Veir/IR/Basic.lean [hunk 3]
```diff
@@ -2572,7 +2590,7 @@ theorem getParentOp!_eq_some_iff {child parent : OperationPtr} {ctx : IRContext
         (child.get! ctx).parent = some block ∧
         (block.get! ctx).parent = some region ∧
         (region.get! ctx).parent = some parent := by
-  grind [OperationPtr.getParentOp!]
+  grind [OperationPtr.getParentOp!, OperationPtr.getParentRegion!]
```
Comment (ineol) [inline Veir/IR/Basic.lean]: it's not important but it's annoying that `getParentRegion!_eq_some_iff` is not enough to prove this without unfolding.

**Review by ineol — APPROVED** [review]
LGTM, just small nitpicks

File: Veir/IR/Basic.lean (hunk 3 above)
Comment (math-fehr) [reply Veir/IR/Basic.lean]: Switching to `let`, this works now somehow. I have to unfold `bind` and `Option.bind` though.
